Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
syncope, dizziness
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ M with schizophrenia presenting with increasing
lightheadedness and syncopal episodes.

Pt states that he's had a history of syncope since ___ years ago,
unclear what this has been attributed to but maybe
"hyperactivity."  Has not had any treatment for these episodes
and pt unsure of any prior work-up.  States syncopal episodes
have been increasing in frequency over last few weeks and has
been most recently occurring up to 3x/week.  Pt states he 
usually
has prodromal symptoms of dizziness/lightheadedness, visual 
auras
of the room closing in and he passes out.  No triggering events
and can happen during exertion or rest.  Unclear if he has
twitching activity but he does report some episodes of urinary
incontinence and feeling fatigued afterwards.  Denies CP, SOB,
numbness/weakness, fevers/chills.

Of note, pt also with hx of schizophrenia.  Was previously on
abilify and Seroquel but has not been taking these recently due
to "high cost."  States he is having auditory hallucination and
paranoid thoughts but denies SI/HI.

On arrival to the ED, VSS
Labs largely unremarkable except for mild anemia with Hb: 11.5
CT head and c-spine negative for acute injury
EKG non-ischemic with normal intervals and no signs of
arrhythmias
He was given 1L NS and admitted for syncope w/u

ROS: rest of 10-point ROS reviewed and is negative except as
noted above.
 
Past Medical History:
Schizophrenia
Recurrent syncope since age ___

SURGICAL HISTORY:
prior UE's fractures after pt fell from second story building
during syncopal event

 
Social History:
___
Family History:
Unknown, pt does not keep in touch with much family
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VITALS: 98.0PO 114 / 68 74 18 98 RA 
GENERAL: mildly unkempt, laying in bed, in NAD
EYES: no scleral icterus, no conjunctival injection
ENT: MMM, clear OP, normal hearing
NECK: Supple, no appreciable LAD
RESP: CTA b/l, no w/r/r, non-labored breathing
CV: RRR, no m/r/g
GI: Soft, NT/ND, normoactive BS
GU: no foley
EXT: wwp, no edema
MSK: multiple well-healed scars on LUE from prior surgery
SKIN: no lesions, no rashes
NEURO: AOx3, moving all extremities purposefully, fine resting
tremor in bilateral hands
PSYCH: poor memory and poor historian but answers appropriately
and does not appear to be responding to internal stimuli.

 
Pertinent Results:
ADMISSION LABS:
___ 03:25AM BLOOD WBC: 8.2 RBC: 3.87* Hgb: 11.5* Hct: 35.2*
MCV: 91 MCH: 29.7 MCHC: 32.7 RDW: 13.7 RDWSD: 46.___ 
___ 03:25AM BLOOD Neuts: 46.3 Lymphs: ___ Monos: 8.3 Eos:
2.9 Baso: 0.5 Im ___: 0.2 AbsNeut: 3.80 AbsLymp: 3.44 AbsMono:
0.68 AbsEos: 0.24 AbsBaso: 0.04 
___ 03:25AM BLOOD Glucose: 89 UreaN: 19 Creat: 0.9 Na: 142
K: 4.2 Cl: 105 HCO3: 25 AnGap: 12 
___ 03:25AM BLOOD Calcium: 8.9 Phos: 3.6 Mg: 1.9 

IMAGING: 
CXR ___ No consolidation or evidence of mediastinal
widening.

CT C-spine ___: No evidence of cervical spine fracture.  No
traumatic malalignment.

CT head ___:  
No acute intracranial process 

EEG ___:
This is a normal continuous ICU EEG monitoring study, with 
normal
background activity. There are no intentional pushbutton 
activations,
epileptiform discharges or electrographic seizures.
 
TTE ___:
The left atrium is normal in size. Left ventricular wall 
thickness, cavity size and regional/global systolic function are 
normal (LVEF >55%). Tissue Doppler imaging suggests a normal 
left ventricular filling pressure (PCWP<12mmHg). Right 
ventricular chamber size and free wall motion are normal. The 
aortic root is mildly dilated at the sinus level. The aortic 
arch is mildly dilated. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion and no aortic 
stenosis or aortic regurgitation. The mitral valve appears 
structurally normal with trivial mitral regurgitation. The 
pulmonary artery systolic pressure could not be determined. 
There is no pericardial effusion. 

IMPRESSION: No structural cardiac cause of syncope identified. 
Normal global and regional biventricular systolic function. No 
clinically-significant valvular disease seen. 
 
Brief Hospital Course:
___ M with schizophrenia and recurrent syncope presenting with 
worsening frequency of syncopal episodes and dizziness.

# Syncope
# Lightheadedness
Pt worked up for cardiac etiologies with tele monitoring and TTE 
both of which were largely unremarkable.  Given some reports of 
post-ictal symptoms, he also underwent video EEG which was 
negative for epileptiform activity.  Drug screen negative and 
labs otherwise only remarkable for low B12 which was 
supplemented.  TSH, RPR, HIV wnl/negative.  Orthostatics 
positive based on increased HR, but pt otherwise taking in good 
PO and did not feel lightheaded with position changes.

# Schizophrenia
# Homelessness: not currently on any meds but pt does not appear 
to be floridly decompensated at this time and does not have 
safety concerns.  ___ was evaluated by ___ who provided him with 
resources regarding area shelters (pt states he was staying on 
the streets) and medical f/u with Healthcare for the homeless.  
He was also seen by Psych who did not feel he required inpatient 
hospitalization at this time.  He was provided with info for the 
___ clinic at ___ where he could follow-up 
to get mental health care moving forwards.

# Vitamin B 12 deficiency:
Initiated on 1000mcg daily which he should continue as an 
outpatient

SW worked with patient on resources.  He will follow up on day 
of discharge to healthcare for the homeless
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Cyanocobalamin 1000 mcg PO DAILY 
RX *cyanocobalamin (vitamin B-12) 1,000 mcg 1 tablet(s) by mouth 
once a day Disp #*90 Tablet Refills:*0 
2.  Multivitamins W/minerals 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Syncope due to unclear etiology
Schizophrenia
Vitamin B12 deficiency

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You came in after an episode of passing out.  We did an 
ultrasound of your heart and this was normal.  We also did an 
EEG to look for seizure activity and this was negative.  It is 
unclear at this time what is causing your passing out.  It may 
be due to low blood pressure from dehydration vs. related to 
your underlying schizophrenia.

We are giving you information about healthcare for the homeless 
and you should go straight there after you leave.  For your 
psych meds, it may be easiest to walk into the ___ 
___ located on the ___ 
___.  They are open from ___.  The address is 
___.

Please return if you have recurrent syncopal episodes or if you 
have thoughts of hurting yourself or others, or if you have any 
other concerns.

It was a pleasure caring for you at ___ 
___.
 
Followup Instructions:
___